### PR TITLE
a small lemma about the constant RV

### PR DESCRIPTION
**Pull request by affeldt-aist**
Note that there is only one lemma: the other one is actually an instance of `pfwd1_const_RV` from your PR #219 @t6s

### CODE REVIEW

File: probability/proba.v [hunk 1]
```diff
@@ -675,6 +675,23 @@ End random_variable_basic_constructions.
 
 Notation "f `o X" := (comp_RV f X).
 
+Lemma dirac_const_RV {R : realType} (U T : finType) (P : R.-fdist U)
+  (X : {RV P -> T}) (a : T) :
+  `Pr[X = a] = 1 -> {in [set u | P u != 0], X =1 const_RV P a}.
+Proof.
+move=> Xa1 u; rewrite inE => Pu0.
```
Comment (t6s) [inline probability/proba.v]: The proof can be shortened:
```
Proof.
move=> /eqP + u; rewrite inE => + Pu0. 
have [->//|Xua] := eqVneq (X u) a.
suff: `Pr[ (X) = (a) ] != 1 by move/negPf ->.
rewrite pfwd1E Pr_to_cplt -eqr_opp opprB subr_eq addrC subrr psumr_neq0//.
by apply/hasP; exists u => //; rewrite !inE Xua/= fdist_gt0.
Qed.
```

**Review by t6s — COMMENTED** [review]
What about stating an equivalence instead of inference?
```
Lemma dirac_const_RV {R : realType} (U T : finType) (P : R.-fdist U)
  (X : {RV P -> T}) (a : T) :
  `Pr[X = a] = 1 <-> {in [set u | P u != 0], X =1 const_RV P a}.
Proof.
rewrite pfwd1E Pr_to_cplt (rwP eqP) -eqr_opp opprB subr_eq addrC subrr.
split.
  move=> /eqP + u; rewrite inE => + Pu0.
  have [->//|Xua] := eqVneq (X u) a.
  move/eqP; rewrite psumr_eq0// => /allP /(_ u).
  by rewrite mem_index_enum !inE Xua/= (negPf Pu0) => /(_ erefl).
move=> H; apply/eqP/Pr_set0P => u; have := H u; rewrite !inE/=.
have [//|?] := eqVneq (P u) 0.
by move/(_ erefl) ->; rewrite /const_RV/cst/= eqxx.
Qed.
```

**Comment by affeldt-aist** [comment]
Yes, let's adopt the equivalence.

File: probability/proba.v [hunk 2]
```diff
@@ -4,7 +4,7 @@ From Stdlib Require Peano_dec.
 From HB Require Import structures.
 From mathcomp Require Import all_ssreflect all_algebra fingroup lra.
 From mathcomp Require boolp.
-From mathcomp Require Import unstable mathcomp_extra functions reals exp.
+From mathcomp Require Import unstable mathcomp_extra contra functions reals exp.
```
Comment (t6s) [inline probability/proba.v]: contra no longer needed ?

**Review by t6s — APPROVED** [review]
Looks good modulo on the require import contra.
